data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_695870_0,[C:1]([C:3]1([H:17])[C:2]([N:6]([H:14])[H:15])([H:16])[N:7]1[H:13])([N:4]([H:11])[H:12])([N:5]([H:9])[H:10])[H:8]>>[C:1](/[C:3]([C:2]([N:6]([H:14])[H:15])([H:16])[H:17])=[N:7]/[H:13])([N:4]([H:11])[H:12])([N:5]([H:9])[H:10])[H:8],45.34126750002258
MR_324334_1,[C:1](/[C:3](=[C:4](\[C:2]([H:16])([H:17])[H:18])[N:6]([H:10])[H:11])[N:5]([H:8])[H:9])([N:7]([H:12])[H:13])([H:14])[H:15]>>[C:1](=[C:3]([C:4]([C:2]([H:16])([H:17])[H:18])([N:6]([H:10])[H:11])[N:7]([H:12])[H:13])[N:5]([H:8])[H:9])([H:14])[H:15],60.579477500001246
MR_78316_1,[C:1](\[C:2]([H:11])([H:12])[H:13])(=[C:6](\[C:3]([H:14])([H:15])[H:16])[C:7]([C:4]([H:17])([H:18])[H:19])([C:5]([H:20])([H:21])[H:22])[O:8][H:9])[H:10]>>[C:1]([C:2]([H:11])([H:12])[H:13])([C:6]([C:3]([H:14])([H:15])[H:16])=[C:7]([C:4]([H:17])([H:18])[H:19])[C:5]([H:20])([H:21])[H:22])([O:8][H:9])[H:10],58.94546750002476
MR_123821_0,[C:1]([N:2]([C:4](=[O:5])[H:9])[H:6])([N:3]([H:7])[H:8])([H:10])[H:11]>>[C:1]([N:3]([H:7])[H:8])([O:5]/[C:4](=[N:2]/[H:6])[H:9])([H:10])[H:11],47.46472749997608
MR_272869_2,[C:1](=[N:6][C:3]([C:2]([H:11])([H:12])[H:13])([O:5][H:8])[N:7]=[C:4]([H:14])[H:15])([H:9])[H:10]>>[C:1](/[N:6]=[C:3](\[C:2]([H:11])([H:12])[H:13])[O:5][H:8])([N:7]=[C:4]([H:14])[H:15])([H:9])[H:10],48.286124999971065
MR_492377_1,[C:1]([C:2]([H:15])([H:16])[H:17])([N:3]([C:4]([N:6]([H:13])[H:14])=[O:8])[N:5]([H:11])[H:12])([O:7][H:9])[H:10]>>[C@@:1]([C:2]([H:15])([H:16])[H:17])([O:7][H:9])([O:8]/[C:4](=[N:3]\[N:5]([H:11])[H:12])[N:6]([H:13])[H:14])[H:10],57.6032449999893
MR_144525_1,[C:1](/[N:4]=[C:7](/[C:6]([C:3]([H:18])([H:19])[H:20])([C:5]([C:2]([H:15])([H:16])[H:17])=[O:9])[O:8][H:10])[H:11])([H:12])([H:13])[H:14]>>[C:1]([N:4]([C:5]([C:2]([H:15])([H:16])[H:17])=[O:9])/[C:7](=[C:6](\[C:3]([H:18])([H:19])[H:20])[O:8][H:10])[H:11])([H:12])([H:13])[H:14],62.00452999997026
MR_526310_1,[C:1]([N:5]([N:6]([C:2]([H:14])([H:15])[H:16])/[C:7]([C:4]([H:20])([H:21])[H:22])=[N:9]/[C:3]([H:17])([H:18])[H:19])[O:8][H:10])([H:11])([H:12])[H:13]>>[C:1]([N:5]([O:8][H:10])[N:9]([C:3]([H:17])([H:18])[H:19])/[C:7]([C:4]([H:20])([H:21])[H:22])=[N:6]\[C:2]([H:14])([H:15])[H:16])([H:11])([H:12])[H:13],66.60159499999196
MR_129973_0,[C:1]([C:2]([H:10])([H:13])[H:14])([C:3]([H:11])([H:12])[H:15])([C:5]([C:4]([H:16])([H:17])[H:18])=[C:7]([H:19])[H:20])[C:6](=[O:8])[H:9]>>[C:1]1([C:2]([H:10])([H:13])[H:14])([C:3]([H:11])([H:12])[H:15])[C@@:6]([C:5]([C:4]([H:16])([H:17])[H:18])=[C:7]([H:19])[H:20])([H:9])[O:8]1,67.1807774999921
MR_538840_1,[C:1]1(=[O:7])[C:4]([C:2]([N:3]([H:8])[H:9])=[O:5])([H:10])[O:6]1>>[c:1]1(=[O:7])[o:5][c:2]([N:3]([H:8])[H:9])[c:4]([H:10])[o:6]1,41.2524775000017
MR_604423_0,[C:1]1([C:2]([C:4]([H:13])([H:14])[H:15])([O:6][H:7])[H:10])([H:9])[C:3]([H:11])([H:12])[N:5]1[H:8]>>[C:1](\[C:2]([C:4]([H:13])([H:14])[H:15])([O:6][H:7])[H:10])([C:3]([H:9])([H:11])[H:12])=[N:5]/[H:8],71.18548250001126
MR_219006_1,[N:1](/[C:2]([N:4]([H:10])[H:11])=[C:6](\[N:5]([H:12])[H:13])[H:14])([N:3]([H:8])[H:9])[H:7]>>[N:1]([N:3]([H:8])[H:9])(/[C:6](=[C:2](\[N:4]([H:10])[H:11])[H:14])[N:5]([H:12])[H:13])[H:7],7.122124999995663
MR_270794_2,[N:1]([N:2]([C:5](=[O:7])[H:13])[H:9])(/[C:3]([N:4]([H:10])[H:11])=[N:6]/[H:12])[H:8]>>[N:1]([N:2](/[C:3]([N:4]([H:10])[H:11])=[N:6]/[H:12])[H:9])([C:5](=[O:7])[H:13])[H:8],62.705447500019744
MR_403086_1,[N:1]1([H:9])[C:3]2([C:5](=[O:8])[H:12])[C:6]([H:13])=[C:2]([N:4]([H:10])[H:11])[N:7]12>>[n:1]1([H:9])[c:3]([C:5](=[O:8])[H:12])[c:6]([H:13])[c:2]([N:4]([H:10])[H:11])[n:7]1,20.01160249998321
MR_549169_1,[C:1]([N:5]([N:6]([C:2]([H:15])([H:16])[H:20])[C:3]([H:17])([H:18])[H:19])/[N:9]=[C:7](/[C:4]([H:21])([H:22])[H:23])[N:8]([H:10])[H:11])([H:12])([H:13])[H:14]>>[C:1]([N:5][N:9][C@:7]([C:4]([H:21])([H:22])[H:23])([N:6]([C:2]([H:15])([H:16])[H:20])[C:3]([H:17])([H:18])[H:19])[N:8]([H:10])[H:11])([H:12])([H:13])[H:14],48.46245250002525
MR_183698_0,[C:1]1([H:10])([H:11])[C:4]([C:2]([H:13])([H:14])[H:15])=[C:3]([N:5]([H:8])[H:9])[C:6]([H:12])=[N:7]1>>[C:1](=[C:4]([C:2]([H:13])([H:14])[H:15])[C@@:3]1([N:5]([H:8])[H:9])[C:6]([H:12])[N:7]1)([H:10])[H:11],57.57877250001542
MR_658428_0,[C:1]([C:5]([C:2]([H:15])([H:16])[H:17])=[C:4]([N:6]([H:11])[H:12])[O:7][C:3]([O:8][H:10])=[O:9])([H:13])([H:14])[H:18]>>[C:1]([C:5]([C:2]([H:15])([H:16])[H:17])([C:3]([O:8][H:10])=[O:9])[C:4]([N:6]([H:11])[H:12])=[O:7])([H:13])([H:14])[H:18],40.69902249997227
MR_21410_0,[C:1]([C:4](/[C:3](=[C:5](/[C:2]([H:14])([H:15])[H:16])[H:10])[O:6][H:8])=[N:7]\[H:9])([H:11])([H:12])[H:13]>>[C:1]([C:4]1=[C:3]([O:6][H:8])[C@@:5]([C:2]([H:14])([H:15])[H:16])([H:10])[N:7]1[H:9])([H:11])([H:12])[H:13],50.38197499999427
MR_289956_1,[C:1]([N:4](/[C:5]([C:3]([H:16])([H:17])[H:18])=[N:7]/[C:2]([H:13])([H:14])[H:15])/[N:6]=[N:8]/[H:9])([H:10])([H:11])[H:12]>>[C:1](/[N:4]=[C:5](/[C:3]([H:16])([H:17])[H:18])[N:7]([C:2]([H:13])([H:14])[H:15])[N:6][N:8][H:9])([H:10])([H:11])[H:12],51.546615000014384
